US04110533
3 ml of an ethereal diazomethane solution (0.5 molar, 1.5 equivalents) are added in the course of about 10 minutes to a solution, cooled to 0° C, of 485 mg of 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester in 10 ml of dry chloroform. The pale yellow solution is stirred for 1 hour at 0° C, flushed with nitrogen in order to remove excess diazomethane and concentrated in vacuo. The residue is recrystallized from methylene chloride and gives 7β-phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester of melting point 140.5°-142° C.

reactant | diazomethane | 0.5 molar, 3 ml, 1.5 equivalents | [N+](=[N-])=C | CH2N2
reactant | 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | 485 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)O)C=C1 | C22H19N3O8S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 7β-phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OC)C=C1 | C23H21N3O8S
